US06225320B1
3-Bromo-2-(2propyl)oxy-5-trifluoromethylpyridine
2-Bromopropane (0.78 ml, 8.3 mmol) was added to a stirred suspension of 3-bromo-5-trifluoromethyl-2(1H)-pyridone (2.0 g, 8.3 mmol) and silver carbonate (1.16 g, 4.2 mmol) in hexane (40 ml) and the mixture stirred at 50° C. for 14 h, then at reflux for 3 h. More 2-bromopropane (0.78 ml) was added and reflux resumed for a further 3 h. On cooling, the mixture was filtered, the filtrate diluted with hexane (100 ml) and washed with water (50 ml). The organic layer was dried (Na2SO4), evaporated, and the residual oil subjected to column chromatography over silica gel, eluting with ethyl acetate/hexane (5:95) to leave the product as a colourless oil (1.68 g).

reactant | 2-Bromopropane | 8.3 mmol, 0.78 ml | BrC(C)C | C3H7Br
reactant | 3-bromo-5-trifluoromethyl-2(1H)-pyridone | 8.3 mmol, 2.0 g | BrC=1C(NC=C(C1)C(F)(F)F)=O | C6H3BrF3NO
reactant | 2-bromopropane | 0.78 ml | BrC(C)C | C3H7Br
solvent | hexane | 40 ml | CCCCCC | C6H14
catalyst | silver carbonate | 4.2 mmol, 1.16 g | C([O-])([O-])=O.[Ag+2]
product | 3-Bromo-2-(2propyl)oxy-5-trifluoromethylpyridine | 1.68 g | BrC=1C(=NC=C(C1)C(F)(F)F)OC(C)C | C9H9BrF3NO
